US07547680B2
2-[3-(2-Carboxyvinyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-(3-Bromobenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole (200 mg), acrylic acid (112 mg), palladium acetate (10 mg) and tri-o-tolylphosphine (28 mg) were suspended in acetonitrile (2 mL). To the mixture was added triethylamine (0.3 mL), and the mixture was stirred at 100° C. for 10 hours. The insoluble material was removed by filtration, and the solvent was removed under reduced pressure. The obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=70/30-10/90) to give the title compound (52 mg).

reactant | 2-(3-Bromobenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole | 200 mg | BrC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C19H20BrN3O4
reactant | acrylic acid | 112 mg | C(C=C)(=O)O | C3H4O2
reactant | tri-o-tolylphosphine | 28 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[3-(2-Carboxyvinyl)benzylamino]-1-(β-D-ribofuranosyl)-1H-benzimidazole | 52 mg | C(=O)(O)C=CC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C22H23N3O6
